US06169091A
4-(4-Phenoxyanilino)thieno[3,2-d]pyrimidine hydrochloride
4-Chlorothieno[3,2-d]pyrimidine (0.085 g, 0.50 mmol) and 4-phenoxyaniline (0.105 g, 0.55 mmol) were reacted in 2-propanol (3.5 ml) for 3 hours according to Procedure A. The product was obtained as a cream solid (0.130 g, 73%), m.p. 236-240° C.; (Found: C, 60.61; H, 3.95, N, 11.93. C18H13N3OS.HCl requires: C, 60.76; H, 3.97; N, 11.81%); δH [2H6]-DMSO 10.93 (1H, br s, NH), 8.80 (1H, s, 2-H), 8.42 (1H, d, J 8, 6-H or 7-H), 7.69 (2H, d, J 9, 2′-H, 6′-H), 7.55 (1H, d, J 8, 6-H or 7-H), 7.41 (2H, t, J 9, 3″-H, 5″-H), 7.18 (1H, t, J 9, 4″-H), 7.04-7.15 (4H, m, 3′-H, 5′-H, 2″-H, 6″-H); m/z (%) 318 (100, M−1+).

reactant | 4-Chlorothieno[3,2-d]pyrimidine | 0.50 mmol, 0.085 g | ClC=1C2=C(N=CN1)C=CS2 | C6H3ClN2S
reactant | 4-phenoxyaniline | 0.55 mmol, 0.105 g | O(C1=CC=CC=C1)C1=CC=C(N)C=C1 | C12H11NO
solvent | 2-propanol | 3.5 ml | CC(C)O | C3H8O
product | 4-(4-Phenoxyanilino)thieno[3,2-d]pyrimidine hydrochloride | 0.130 g, 73% | Cl.O(C1=CC=CC=C1)C1=CC=C(NC=2C3=C(N=CN2)C=CS3)C=C1 | InChI=1S/C18H13N3OS.ClH/c1-2-4-14(5-3-1)22-15-8-6-13(7-9-15)21-18-17-16(10-11-23-17)19-12-20-18;/h1-12H,(H,19,20,21);1H
